US08685970B2
To a solution of 2-chloroquinoline-8-carboxylic acid (3.1 g, 15.0 mmol) in DME (20 mL) and water (2 mL) was added 2-(3-(difluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (4.5 g, 17.7 mmol), K3PO4 (5.2 g, 22.6 mmol) and Pd(dppf)Cl2.CH2Cl2 (0.50 g, 0.63 mmol). The reaction mixture was stirred under nitrogen at 85° C. for 12 hours, then the reaction was cooled to room temperature and water (20 mL) was added. The mixture was filtered and the filter cake was washed with water, and the solid was dried in vacuo to give 2-(3-(difluoromethyl)phenyl)quinoline-8-carboxylic acid (3.6 g, 80% yield).

reactant | 2-chloroquinoline-8-carboxylic acid | 15.0 mmol, 3.1 g | ClC1=NC2=C(C=CC=C2C=C1)C(=O)O | C10H6ClNO2
reactant | 2-(3-(difluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 17.7 mmol, 4.5 g | FC(C=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C)F | C13H17BF2O2
reactant | K3PO4 | 22.6 mmol, 5.2 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | CH2Cl2 | 0.63 mmol, 0.50 g | C(Cl)Cl | CH2Cl2
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 20 mL | O | H2O
product | 2-(3-(difluoromethyl)phenyl)quinoline-8-carboxylic acid | 3.6 g, 80% yield | FC(C=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)C(=O)O)F | C17H11F2NO2
